US07696223B2
b) 4,5-Dibromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
Prepared in analogy to that of Example 1(c) from 4,5-dibromo-2-bromomethyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester and tert-butoxycarbonylamino-acetic acid ethyl ester. The title compound, ESI MS (m/z): 609 (M+Na+).

reactant | 4,5-dibromo-2-bromomethyl-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)Br)C1=CC=CC=C1)CBr | C14H12Br3NO2
reactant | tert-butoxycarbonylamino-acetic acid ethyl ester | C(C)OC(CNC(=O)OC(C)(C)C)=O | C9H17NO4
product | 4,5-Dibromo-2-[(tert-butoxycarbonyl-ethoxycarbonylmethyl-amino)-methyl]-1-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1Br)Br)C1=CC=CC=C1)CN(CC(=O)OCC)C(=O)OC(C)(C)C | C23H28Br2N2O6
